US04405714
Preparation of 1-tert.-butoxycarbonylaminosorbitol
To a solution of 90 g 1-amino-L-sorbitol in 1 l THF (tetrahydrofuran)/H2O 1:1 (v/v) 131 g of di-BOC-pyrocarbonat (BOC-anhydride) in 500 ml THF were added dropwise at room temperature. The mixture was stirred overnight, the tetrahydrofuran was evaporated off in vacuo, the aqueous phase was extracted twice with ethyl acetate and then evaporated to dryness and the residue was recrystallised from isopropanol.

reactant | 1-amino-L-sorbitol | 90 g | NC(O)[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H15NO6
reactant | di-BOC-pyrocarbonat | C(=O)(OC(C)(C)C)OC(=O)OC(=O)OC(=O)OC(C)(C)C | C12H18O9
solvent | THF | 1 l, 131 g | O1CCCC1 | C4H8O
solvent | THF | 500 ml | O1CCCC1 | C4H8O
product | 1-tert.-butoxycarbonylaminosorbitol | C(C)(C)(C)OC(=O)NC(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C11H23NO8
